US06172057B2
4-(4-methoxy-benzenesulfonyl)-1-[2-(4-methoxyphenyl)-ethyl]-piperidine-4-carboxylic acid was prepared starting from 4-(4-methoxy-benzenesulfonyl)-1-[2-(4-methoxyphenyl)-ethyl]-piperidine-4-carboxylic acid ethyl ester (5.0 g, 10.8 mmol) dissolved in THF:methanol 3:1 and 10 N NaOH (40 ml). The resulting reaction mixture was worked up as outlined in example 83. Yield 4.0 g (85%); off white powder; mp 205° C.; MS: 434.5 (M+H)+.

reactant | 4-(4-methoxy-benzenesulfonyl)-1-[2-(4-methoxyphenyl)-ethyl]-piperidine-4-carboxylic acid ethyl ester | 10.8 mmol, 5.0 g | C(C)OC(=O)C1(CCN(CC1)CCC1=CC=C(C=C1)OC)S(=O)(=O)C1=CC=C(C=C1)OC | C24H31NO6S
solvent | THF methanol | C1CCOC1.CO
solvent | NaOH | 10 N, 40 ml | [OH-].[Na+]
product | 4-(4-methoxy-benzenesulfonyl)-1-[2-(4-methoxyphenyl)-ethyl]-piperidine-4-carboxylic acid | COC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)CCC1=CC=C(C=C1)OC)C(=O)O | C22H27NO6S
